US04918203
Preparation of 6-Bromo-4-Chromanone
Following the procedure of Example 1, Parabromophenol (43.25 grams), acrylic acid (27 grams) and phenothiazine (0.02 grams) were added to the Pressure reactor. The system was closed and evacuated before being cooled to -78° C. and the anhydrous hydrogen fluoride (110 grams) was added. After the mixture was heated and stirred for six hours at 100° C., 140 psig, the excess hydrogen fluoride was vented and the reaction mixture cooled to 0°-5° C. After washing the mixture with D.I. water, HPLC analysis indicated one major product which was separated and characterized as 6-Bromo-4-Chromanone.

reactant | Parabromophenol | 43.25 grams | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | acrylic acid | 27 grams | C(C=C)(=O)O | C3H4O2
reactant | phenothiazine | 0.02 grams | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
product | 6-Bromo-4-Chromanone | BrC=1C=C2C(CCOC2=CC1)=O | C9H7BrO2
